US05726205
(3) trans-O-acetyl-4-(4-diallylaminomethylphenyl)-cyclohexanol
from trans-O-acetyl-4-(4-chloromethylphenyl)-cyclohexanol and diallylamine. Colourless oil.

reactant | trans-O-acetyl-4-(4-chloromethylphenyl)-cyclohexanol | C(C)(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CCl | C15H19ClO2
reactant | diallylamine | C(C=C)NCC=C | C6H11N
product | trans-O-acetyl-4-(4-diallylaminomethylphenyl)-cyclohexanol | C(C)(=O)O[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CN(CC=C)CC=C | C21H29NO2
